US04990647
Preparation of methyl 4-(3-trifluoromethylphenyl)-benzoate
33 g of zinc powder, 33 g of triphenylphosphine, 5 of sodium iodide, 2.2 g of nickel(II) chloride and 200 ml of dimethylformamide were mixed under a nitrogen atmosphere and the mixture was initially introduced into the reaction vessel. The mixture was kept at 50° to 60° C. for half an hour, after which a suspension coloured deep red-brown was present. A solution containing 20.2 g (0.11 mol) of 3-chloro-benzotrifluoride, 38.2 g (0.22 mol) of methyl 4-chloro-benzoate and 100 ml of dimethylformamide was added dropwise to this suspension in the course of half an hour. After 6 hours at 80° C., the reaction mixture was introduced into 500 ml of chloroform and filtered. The residue on the filter was boiled up in 400 ml of toluene and filtered off hot. After cooling, 15 g of dimethyl biphenyl-4,4'-dicarboxylate (50.5% of theory--based on the methyl 4-chloro-benzoate employed) of melting point 213° to 214° C. were obtained. The filtrate was extracted by shaking with dilute aqueous hydrochloric acid and with water and the organic phase was dried over sodium sulphate and concentrated. The resulting residue was distilled. 6.4 g of 3,3'-bis-(trifluoromethyl)-biphenyl (20% of theory--based on the 3-chloro-benzotrifluoride employed) and a total of 16 g of methyl 4-(3-trifluoromethylphenyl)-benzoate (52% of theory--based on the 3-chloro-benzotrifluoride employed) of boiling point 125° C. to 130° C. under 0.1 to 0.3 mbar were obtained in this manner.

reactant | triphenylphosphine | 33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium iodide | [I-].[Na+]
reactant | 3-chloro-benzotrifluoride | 0.11 mol, 20.2 g | ClC=1C=C(C=CC1)C(F)(F)F | C7H4ClF3
reactant | methyl 4-chloro-benzoate | 0.22 mol, 38.2 g | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
catalyst | zinc | 33 g | [Zn] | Zn
catalyst | nickel(II) chloride | 2.2 g | [Ni](Cl)Cl
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl 4-(3-trifluoromethylphenyl)-benzoate | FC(C=1C=C(C=CC1)C1=CC=C(C(=O)OC)C=C1)(F)F | C15H11F3O2
